US05155111
1. Methyl Gallate
Twenty 20 ml of concentrated sulfuric acid was added dropwise to a solution of 200 g of gallic acid in 600 ml of methanol at room temperature with stirring for 6-8 hours. After approximately 2/3 of the methanol was removed, the residue was cooled to 10° C., poured into 1.2 kg of water and allowed to stand overnight. The white precipitate which formed was filtered and washed with water to give 178 g of product methyl gallate, m.p. 200°-204° C. (yield 82%).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | gallic acid | 200 g | C(C1=CC(O)=C(O)C(O)=C1)(=O)O | C7H6O5
reactant | methanol | 600 ml | CO | CH4O
product | Methyl Gallate | 178 g, yield 82% | C(C1=CC(O)=C(O)C(O)=C1)(=O)OC | C8H8O5
